US09340549B2
(S)-Methyl 2-((4-((tert-butoxycarbonyl)amino)-cyclohexyl)amino)-2-phenylacetate
To a flask charged with 4-N-boc-aminocyclohexanone (commercially available from Combi-Blocks, San Diego, Calif.) (11.00 g, 51.6 mmol) was added DCE (206 mL) followed by (S)-(+)-2-phenylglycine methyl ester hydrochloride (commercially available from Sigma-Aldrich, Milwaukee, Wis.) (10.40 g, 51.6 mmol). The resulting mixture was stirred at room temperature for 15 minutes prior to the addition of sodium triacetoxyborohydride (21.86 g, 103 mmol). The resulting suspension was stirred overnight at room temperature leading to conversion to desired product (˜1:1 cis:trans). To the mixture was added water, and the resulting mixture was transferred to a separatory funnel. The mixture was extracted with EtOAc (2×). The combined organics were dried with Na2SO4, filtered, and dried under reduced pressure. The crude material was purified with a 100 g SNAP column ramping DCM:MeOH (90:10) in DCM (0-25%), then isocratic at 25% (monitoring at 215 nm) to yield (S)-methyl 2-(((1 r,4S)-4-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-2-phenylacetate (12.43 g, 34.3 mmol, 66.5% yield) as a mixture of isomers and as a yellow solid.

reactant | 4-N-boc-aminocyclohexanone | CC(C)(C)OC(=O)NC1CCC(=O)CC1 | C11H19NO3
reactant | (S)-(+)-2-phenylglycine methyl ester hydrochloride | Cl.COC([C@@H](N)C1=CC=CC=C1)=O
reactant | sodium triacetoxyborohydride | 103 mmol, 21.86 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 206 mL | ClCCCl | C2H4Cl2
product | (S)-Methyl 2-((4-((tert-butoxycarbonyl)amino)-cyclohexyl)amino)-2-phenylacetate | C(C)(C)(C)OC(=O)NC1CCC(CC1)N[C@H](C(=O)OC)C1=CC=CC=C1 | C20H30N2O4
